US07514470B2
A. 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)alaninate
Synthesized as described in example 1B using 2-(trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile and 1,1-dimethylethyl 2-bromopropanoate. 1H NMR (400 MHz, CDCl3) δ 7.67 (d, J=8.8 Hz, 1H), 7.0 (d, J=2.6 Hz, 1H), 6.85 (dd, J=8.8, 2.6 Hz, 1H), 4.37 (q, J=7.3 Hz, 1H), 3.74 (t, J=8.1 Hz, 2H), 2.62-2.38 (m, 2H), 1.61 (d, J=7.3 Hz, 3H), 1.45 (s, 9H).

reactant | 2-(trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile | FC(C1=C(C#N)C=CC(=C1)NCCC(F)(F)F)(F)F | C11H8F6N2
reactant | 1,1-dimethylethyl 2-bromopropanoate | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
product | 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)alaninate | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)OC(C)(C)C)CCC(F)(F)F)C(F)(F)F | C18H20F6N2O2
